US07375115B2
3-Oxa-spiro[5.5]undecan-2-one
To a solution of 1,1-cyclohexane diacetic acid anhydride (20.1 g) in THF (150 mL) was added sodium borohydride (3.78 g, 100 mmol) under ice cooling. The reaction solution was stirred at room temperature for additional 3 hours. Water was added to the solution, and it was made acidic with conc. hydrochloric acid. The solution was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate was then concentrated under reduced pressure to give the title compound (17.07 g). This product was subjected to the subsequent step without further purification.

reactant | 1,1-cyclohexane diacetic acid anhydride | 20.1 g | C12(CCCCC1)CC(=O)OC(C2)=O | C10H14O3
reactant | sodium borohydride | 100 mmol, 3.78 g | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-Oxa-spiro[5.5]undecan-2-one | 17.07 g | C1C(OCCC12CCCCC2)=O | C10H16O2
